US09102598B2
IBP-BPA Copolymer (PL-11-058)
A solution of 4,4′-(2,3-dihydro-1H-indene-1,1-diyl)diphenol (“IBP”) was prepared by dissolving 8.33 g (0.0275 moles) of IBP monomer (prepared according to Example 9) in 33% aqueous caustic (15 g) and water (30 ml). To a 2 L glass reactor equipped with a pH probe, condenser, agitator, phosgene inlet, and caustic scrubber was added methylene chloride (500 ml), deionized water (140 ml), triethylamine (0.17 ml, 0.0012 moles), bisphenol-A (7.67 g, 0.0337 moles), p-cumylphenol (0.39 g, 0.0018 moles), and IBP solution. The batch was phosgenated in excess at a rate of 2 grams per min for 4 minutes, maintaining the pH between 9 and 10 with concomitant caustic addition (33% w/w). At the completion of the phosgenation, the reactor was purged with nitrogen to remove excess phosgene and the reaction mixture extracted with dilute acid (1N HCl) and deionized water. The final product IBP-BPA Copolymer (PL-11-058) was isolated as a white powder by exposing the polymer solution (in methylene chloride) to hot water, evaporating the solvent and providing a white powder. Characterization data for the IBP-BPA Copolymer (PL-11-058) is provided in Table 1, shown below.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 0.0012 moles, 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | bisphenol-A | 0.0337 moles, 7.67 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | p-cumylphenol | 0.0018 moles, 0.39 g | C(C)(C)(C1=CC=CC=C1)C1=CC=C(C=C1)O | C15H16O
solvent | water | 140 ml | O | H2O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | 4,4′-(2,3-dihydro-1H-indene-1,1-diyl)diphenol | C1(CCC2=CC=CC=C12)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C21H18O2
